US05441955
8-Iodoindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12 and substituting isatoic anhydride for 5-chloroisatoic anhydride and 5-iodoisatin for 5-fluoroisatin gave the title compound in 31% yield: mp 296.5°-297.3° C.; 1H NMR (300MHz, DMSO-d6) δ 8.16-8.36 (m, 4H) 7.96 (2, H) 7.70-7.83 (m, 1H); MS (M+H)+ 374.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 5-iodoisatin | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 8-Iodoindolo[2,1-b]quinazoline-6,12-dione | 31% yield | IC=1C=C2C(C3=NC4=CC=CC=C4C(N3C2=CC1)=O)=O | C15H7IN2O2
